US04169141
C. t-Butoxycarbonyl-glycyl-glycine
Add, to a solution of t-butoxycarbonyl-glycyl-glycine methyl ester (3.9 g.) in tetrahydrofuran (30 ml.) and water (30 ml.), 16 ml. of 1 N sodium hydroxide dropwise. Stir the mixture until homogenous (1 1/2 hours), then acidify to pH 3 with dilute hydrochloric acid and evaporate to dryness. Suspend the residue in acetone, filter and evaporate the filtrate to dryness to afford the title product (m.p. 125°-128° C.).

reactant | t-butoxycarbonyl-glycyl-glycine methyl ester | 3.9 g | COC(CNC(CNC(=O)OC(C)(C)C)=O)=O | C10H18N2O5
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | t-Butoxycarbonyl-glycyl-glycine | C(C)(C)(C)OC(=O)NCC(=O)NCC(=O)O | C9H16N2O5
